US05075319
e) Ethyl 7-amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate [XVII; Alk=Et]
A slurry of 1.20 kg of ethyl 7-azido-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate in 12 L of dimethylformamide was charged to a five gallon autoclave. After placing the vessel under nitrogen, a slurry of 76 g of 10% palladium-on-carbon in 700 ml of dimethylformamide was added. The mixture was hydrogenated at 48-50 p.s.i. and 600 r.p.m. for four hours. The reaction mixture was filtered and concentrated under aspirator pressure to give a thick but stirrable dark residue. Ethanol (3 L) was added and the suspension was briefly refluxed before allowing to cool. After cooling to 5° C., the product was collected, washed with 2×500 ml of cold ethanol and then dried at 65°-70° C. in vacuo overnight to give 962 g (86.7%) of product.

reactant | ethyl 7-azido-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 1.20 kg | N(=[N+]=[N-])C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)OCC)=O)F | C15H12F2N4O3
reactant | Ethanol | 3 L | C(C)O | C2H6O
solvent | dimethylformamide | 12 L | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
catalyst | palladium-on-carbon | 76 g | [Pd] | Pd
product | Ethyl 7-amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 962 g, 86.7% | NC1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)OCC)=O)F | C15H14F2N2O3
